US07718683B2
General Procedure E Exemplified for 4-tert-Butyl-N-[4-chloro-2-(5-isopropoxymethyl-4-methyl-4H-[1,2,4]triazol-3-yl)-phenyl]-benzenesulfonamide
In a pressure vessel, 4-tert-butyl-N-[4-chloro-2-(5-isopropoxymethyl-[1,3,4]oxadiazol-2-yl)-phenyl]-benzenesulfonamide (71 mg, 0.15 mmol) and methyl amine (40% in H2O, 1.5 mL, 0.6 mmol) were heated at 135° C. for 18 h. The reaction was cooled to room temperature, concentrated in vacuo, and the residue purified by flash column chromatography (0-50% ethyl acetate in hexane) to yield the title compound as a white solid: MS (ES) M+H expected 477.2, found 477.1.

reactant | 4-tert-butyl-N-[4-chloro-2-(5-isopropoxymethyl-[1,3,4]oxadiazol-2-yl)-phenyl]-benzenesulfonamide | 0.15 mmol, 71 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C=1OC(=NN1)COC(C)C | C22H26ClN3O4S
reactant | methyl amine | 0.6 mmol, 1.5 mL | CN | CH5N
product | 4-tert-Butyl-N-[4-chloro-2-(5-isopropoxymethyl-4-methyl-4H-[1,2,4]triazol-3-yl)-phenyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C1=NN=C(N1C)COC(C)C | C23H29ClN4O3S
